US04941923
100 parts of triethanolamine were dissolved in 500 parts of water. 100 parts of concentrated hydrochloric acid were added to the solution to give a triethanolamine hydrochloride solution. This solution was added dropwise to a solution of 50 parts of C. I. Solubilized Sulphur Black 1 in 500 parts of boiling water under stirring. A crystallization began immediately. The crystal thus formed was separated by filtration, washed with water and dried to give a water-insoluble black pigment of the following formula:

reactant | triethanolamine | N(CCO)(CCO)CCO | C6H15NO3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | triethanolamine hydrochloride | Cl.N(CCO)(CCO)CCO | InChI=1S/C6H15NO3.ClH/c8-4-1-7(2-5-9)3-6-10;/h8-10H,1-6H2;1H
